US09334269B2
To a solution of 3-(4-fluorophenoxy)azetidine (557 mg, 3.37 mmol) [prepared as described in Example AAA] in isopropanol (10 mL, 3 mL/mmol) was added DIPEA (1.5 mL, 8.42 mmol) and 2,4-dichloropyridine (500 mg, 3.37 mmol) and the mixture was heated at 80° C. for 7 h. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×20 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 2-chloro-6-(3-(4-fluorophenoxy)azetidin-1-yl)pyridine (500 mg, 55%) as a solid. Observed mass (M+1): 279.1.

reactant | 3-(4-fluorophenoxy)azetidine | 3.37 mmol, 557 mg | FC1=CC=C(OC2CNC2)C=C1 | C9H10FNO
reactant | DIPEA | 8.42 mmol, 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichloropyridine | 3.37 mmol, 500 mg | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2-chloro-6-(3-(4-fluorophenoxy)azetidin-1-yl)pyridine | 500 mg, 55% | ClC1=NC(=CC=C1)N1CC(C1)OC1=CC=C(C=C1)F | C14H12ClFN2O
